US07960436B2
c. 5-Amino-6-nitro-indan-1-one
A suspension of N-(6-nitro-1-oxo-indan-5-yl)-acetamide (10 g, 0.042 mol) in HCl (200 ml, 2 N)) and EtOH (100 ml) was refluxed for 30 min. The reaction was cooled to 15° C. and the resulting precipitate was isolated and recrystallized from dilute ethanol to give 7.9 g (97.5%) of yellow solid.

reactant | N-(6-nitro-1-oxo-indan-5-yl)-acetamide | 0.042 mol, 10 g | [N+](=O)([O-])C1=C(C=C2CCC(C2=C1)=O)NC(C)=O | C11H10N2O4
reactant | EtOH | 100 ml | CCO | C2H6O
solvent | HCl | 2 N, 200 ml | Cl | ClH
product | 5-Amino-6-nitro-indan-1-one | 7.9 g, 97.5% | NC=1C=C2CCC(C2=CC1[N+](=O)[O-])=O | C9H8N2O3
